US07601844B2
Step 4: 3-(2-(Benzyloxymethyl)-2H-tetrazol-5-yl)benzoic acid
A solution of ethyl 3-(2-(benzyloxymethyl)-2H-tetrazol-5-yl)benzoate (653 mg, 1.93 mmol) in THF (10 mL) was treated with a 0.5 M aqueous lithium hydroxide solution (5.8 mL, 2.9 mmol), and the reaction was stirred overnight. Analysis by LC/MS indicated that the reaction had not gone to completion, so the mixture was treated with a 0.5 M aqueous lithium hydroxide solution (1 mL, 0.5 mmol), and the reaction was stirred for an additional 6 hours. The THF was removed under reduced pressure, and the aqueous solution was treated with 1 N HCl (3.5 mL, 3.5 mmol). The mixture was extracted 3× with ethyl acetate, and the combined organic phases were dried over sodium sulfate and concentrated in-vacuo to yield the title compound as a colorless powder which was used as-is in the next step.

reactant | ethyl 3-(2-(benzyloxymethyl)-2H-tetrazol-5-yl)benzoate | 1.93 mmol, 653 mg | C(C1=CC=CC=C1)OCN1N=C(N=N1)C=1C=C(C(=O)OCC)C=CC1 | C18H18N4O3
reactant | lithium hydroxide | 2.9 mmol, 0.5 M, 5.8 mL | [OH-].[Li+]
reactant | lithium hydroxide | 0.5 mmol, 0.5 M, 1 mL | [OH-].[Li+]
reactant | HCl | 3.5 mmol, 1 N, 3.5 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(2-(Benzyloxymethyl)-2H-tetrazol-5-yl)benzoic acid | C(C1=CC=CC=C1)OCN1N=C(N=N1)C=1C=C(C(=O)O)C=CC1 | C16H14N4O3
